US08012606B2
Synthesis of 2,7-diaminothianthrene
A mixture of 5.75 g (0.0174 mole) of 2,7-bis(acetylamino)thianthrene, 12 ml of concentrated hydrochloric acid, and 140 ml of ethanol was heated under reflux for 6 hours. The reaction mixture was cooled to room temperature and a precipitate was collected by filtration. The precipitate was added to a mixture of 13.5 ml of concentrated hydrochloric acid and 355 ml of water and the insoluble matters were separated by filtration. The filtered mother liquor was poured into an aqueous solution of sodium hydroxide and the precipitate or 2,7-diaminothianthrene was collected by filtration. The yield was 3.7 g (0.0158 mole, 91% yield) and the purity was 88.2 area % (HPLC, 254 nm).

reactant | 2,7-bis(acetylamino)thianthrene | 0.0174 mole, 5.75 g | C(C)(=O)NC1=CC=2SC3=CC=C(C=C3SC2C=C1)NC(C)=O | C16H14N2O2S2
reactant | hydrochloric acid | 12 ml | Cl | ClH
solvent | ethanol | 140 ml | C(C)O | C2H6O
product | 2,7-diaminothianthrene | 91% yield | NC1=CC=2SC3=CC=C(C=C3SC2C=C1)N | C12H10N2S2
